US08258129B2
b) 2-(1-trityl-1H-imidazol-4-yl)-propionitrile
9.2 g (1-trityl-1H-imidazol-4-yl)-acetonitrile are dissolved in 120 mL THF, the solution is cooled to −5° C. and 1.8 mL methyl iodide and 1.08 g sodium hydride (60%) are added. The suspension is stirred for 12 h at RT and then applied directly to RP gel and purified by RP chromatography (C18, 10/90 to 90/10 acetonitrile/water in 15 min-0.2% formic acid is added to both solvents).

reactant | (1-trityl-1H-imidazol-4-yl)-acetonitrile | 9.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC#N | C24H19N3
reactant | methyl iodide | 1.8 mL | CI | CH3I
reactant | sodium hydride | 1.08 g | [H-].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-(1-trityl-1H-imidazol-4-yl)-propionitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C#N)C | C25H21N3
